US08957068B2
To a solution of 4-{(S)-1-[4-((S)-4-Isopropyl-2-oxo-oxazolidin-3-yl)-pyrimidin-2-ylamino]-ethyl}-piperidine-1-carboxylic acid benzyl ester (22 mg) in methanol (5 mL) was added palladium hydroxide on carbon (7 mg, 0.05 mmol). The reaction was then stirred at room temperature for 16 hours. The reaction is then filtered and then concentrated under vacuum. The crude material was then purified using reverse phase C18 ODB column water-acetonitrile 0.1% TFA modifier to give (S)-4-isopropyl-3-[2-((S)-1-piperidin-4-yl-ethylamino)-pyrimidin-4-yl]-oxazolidin-2-one (11 mg) in 70% yield.

reactant | 4-{(S)-1-[4-((S)-4-Isopropyl-2-oxo-oxazolidin-3-yl)-pyrimidin-2-ylamino]-ethyl}-piperidine-1-carboxylic acid benzyl ester | 22 mg | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)[C@H](C)NC1=NC=CC(=N1)N1C(OC[C@@H]1C(C)C)=O | C25H33N5O4
solvent | methanol | 5 mL | CO | CH4O
catalyst | palladium hydroxide on carbon | 0.05 mmol, 7 mg | [OH-].[OH-].[Pd+2]
product | (S)-4-isopropyl-3-[2-((S)-1-piperidin-4-yl-ethylamino)-pyrimidin-4-yl]-oxazolidin-2-one | 11 mg, 70% yield | C(C)(C)[C@@H]1N(C(OC1)=O)C1=NC(=NC=C1)N[C@@H](C)C1CCNCC1 | C17H27N5O2
